US07615555B2
Preparation of 1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one
Aminoacetaldehyde dimethylacetal (1.2 g) was added to a solution of benzyl 4-isocyanatopiperidine-1-carboxylate (3 g) in THF (100 ml) and the mixture was stirred for 3 hours. 20% Palladium on charcoal (500 mg) was added and the mixture was hydrogenated under a hydrogen filled balloon. The catalyst was filtered through Celite and the residue was evaporated to dryness then dissolved in ethanol and subjected to repeat hydrogenation with fresh palladium on charcoal catalyst (500 mg). The catalyst was filtered through Celite and the residue was evaporated to dryness then dissolved in 2M HCl (50 ml) and allowed to stand for 4 hours. The reaction mixture was basified with 2M NaOH (50 ml) and evaporated to dryness using toluene (100 ml) to azeotrope final traces of solvent. The residue was triturated with methanol (100 ml) and filtered. The filtrate was evaporated to dryness to give the title compound as an off-white solid, yield 2.2 g, NMR DMSO D6 (Part spectrum some peaks obscured by DMSO): 1.3-1.8 (m, 5H) 3 (m, 2H) 3.9 (m, 1H) 6.3 (d, 1H) 6.4 (d, 1H) 9.9 (s broad, 1H).

reactant | Aminoacetaldehyde dimethylacetal | 1.2 g | COC(CN)OC | C4H11NO2
reactant | benzyl 4-isocyanatopiperidine-1-carboxylate | 3 g | N(=C=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H16N2O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Palladium on charcoal | 500 mg | [Pd] | Pd
product | 1-piperidin-4-yl-1,3-dihydro-2H-imidazol-2-one | N1CCC(CC1)N1C(NC=C1)=O | C8H13N3O
